US07851473B2
(2) 1-(4-Phenyl-2-thienyl)piperazine
A solution of ethyl 4-(4-phenyl-2-thienyl)piperazine-1-carboxylate (350 mg, 1.11 mmol), an aqueous 8N sodium hydroxide solution (5 ml) and ethanol (10 ml) was stirred at 100° C. for 3 hours, and the solvent was distilled off under reduced pressure. The residue was poured into water and the mixture was extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to obtain the desired product (240 mg, 88.9%) as an oil.

reactant | ethyl 4-(4-phenyl-2-thienyl)piperazine-1-carboxylate | 1.11 mmol, 350 mg | C1(=CC=CC=C1)C=1C=C(SC1)N1CCN(CC1)C(=O)OCC | C17H20N2O2S
reactant | sodium hydroxide | 8N, 5 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(4-Phenyl-2-thienyl)piperazine | 240 mg, 88.9% | C1(=CC=CC=C1)C=1C=C(SC1)N1CCNCC1 | C14H16N2S
